US09216964B2
To the reaction vessel containing 5-bromo-2-(1,1-dioxo-tetrahydro-thiophen-3-yl)-1,2,3,4-tetrahydro-isoquinoline (50 mg, 0.15 mmol), 3-(3,5-difluoropyridin-2-yl)-4-methylaniline (33 mg, 0.15 mmol), Pd2(dba)3 (13 mg, 0.014 mmol), Xantphos (16 mg, 0.028 mmol) and K3PO4 (74 mg, 0.35 mmol) is added anhydrous dioxane (1 mL). The vessel is flushed with nitrogen, sealed and heated to 100° C. for 15 hours. The reaction is then cooled to ambient temperature, filtered through a celite pad to remove salt. The filtrate is concentrated and purified by silica gel flash chromatography to afford [3-(3,5-difluoro-pyridin-2-yl)-4-methyl-phenyl]-[2-(1,1-dioxo-tetrahydro-thiophen-3-yl)-1,2,3,4-tetrahydro-isoquinolin-5-yl]-amine as an off-white solid (45 mg, 65%). MS m/z 470.2 (M+1); 1H NMR 400 MHz (DMSO-d6) δ 8.67 (d, 1H, J=2.4 Hz), 7.39 (s, 1H), 7.22 (d, 1H, J=8.4 Hz), 7.12 (m, 2H), 7.00 (dd, 1H, J1=8.0 Hz, J2=2.4 Hz), 6.91 (d, 1H, J=2.4 Hz), 6.75 (d, 1H, J=7.2 Hz), 3.79 (d, 1H, J=19.2 Hz), 3.71 (d, 1H, J=19.2 Hz), 3.47 (m, 2H), 3.34 (m, 1H), 3.18 (m, 2H), 2.82 (m, 2H), 2.72 (m, 2H), 2.47 (m, 1H), 2.17 (m, 1H), 2.11 (s, 3H).

reactant | 5-bromo-2-(1,1-dioxo-tetrahydro-thiophen-3-yl)-1,2,3,4-tetrahydro-isoquinoline | 0.15 mmol, 50 mg | BrC1=C2CCN(CC2=CC=C1)C1CS(CC1)(=O)=O | C13H16BrNO2S
reactant | 3-(3,5-difluoropyridin-2-yl)-4-methylaniline | 0.15 mmol, 33 mg | FC=1C(=NC=C(C1)F)C=1C=C(N)C=CC1C | C12H10F2N2
reactant | Xantphos | 0.028 mmol, 16 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | K3PO4 | 0.35 mmol, 74 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.014 mmol, 13 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | [3-(3,5-difluoro-pyridin-2-yl)-4-methyl-phenyl]-[2-(1,1-dioxo-tetrahydro-thiophen-3-yl)-1,2,3,4-tetrahydro-isoquinolin-5-yl]-amine | 45 mg, 65% | FC=1C(=NC=C(C1)F)C=1C=C(C=CC1C)NC1=C2CCN(CC2=CC=C1)C1CS(CC1)(=O)=O | C25H25F2N3O2S
